US05118599
N-(5-AMINO-2-METHOXYPHENYL)-2,2,5-TRIMETHYL-β-OXO-1,3-DIOXANE-5-PROPANAMIDE
N-(5-Nitro-2-methoxyphenyl)-2,2,5-trimethyl-β-oxo-1,3-dioxane-5-propanamide (22parts) are dissolved in dry tetrahydrofuran (250 parts) and placed in a Parr bottle. The nitro compound is hydrogenated at low pressure and at ambient conditions in a Parr apparatus over Pd-C catalyst (2.5 parts) for 3.5 hr. Thin layer chromatography is used to monitor reaction completion which appears to be quantitative with no other products except the desired amine. The reaction product is carried to the next synthesis without purification other than filtration to remove spent catalyst.

reactant | N-(5-Nitro-2-methoxyphenyl)-2,2,5-trimethyl-β-oxo-1,3-dioxane-5-propanamide | [N+](=O)([O-])C=1C=CC(=C(C1)NC(CC(C1(COC(OC1)(C)C)C)=O)=O)OC | C17H22N2O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | Pd-C | [Pd] | Pd
product | N-(5-AMINO-2-METHOXYPHENYL)-2,2,5-TRIMETHYL-β-OXO-1,3-DIOXANE-5-PROPANAMIDE | NC=1C=CC(=C(C1)NC(CC(C1(COC(OC1)(C)C)C)=O)=O)OC | C17H24N2O5
